US08242153B2
In analogy to example 1d (S)-2-amino-5-(3,5-difluoro-phenyl)-heptan-1-ol was reacted with cyanogen bromide to give (4S)-4-[3-(3,5-difluoro-phenyl)-pentyl]-4,5-dihydro-oxazol-2-ylamine. Light yellow liquid. MS (ISP): 269.3 ([M+H]+).

reactant | (S)-2-amino-5-(3,5-difluoro-phenyl)-heptan-1-ol | N[C@H](CO)CCC(CC)C1=CC(=CC(=C1)F)F | C13H19F2NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (4S)-4-[3-(3,5-difluoro-phenyl)-pentyl]-4,5-dihydro-oxazol-2-ylamine | FC=1C=C(C=C(C1)F)C(CC[C@@H]1N=C(OC1)N)CC | C14H18F2N2O
